US08476297B2
(R)—N-(1-(Trifluoromethyl)cyclopropyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
A mixture of 1-(trifluoromethyl)cyclopropane carboxylic acid (0.36 g, 2.3 mmol), DIEA (0.41 mL, 2.3 mmol), and diphenylphosphoryl azide (0.51 mL, 2.3 mmol) in p-dioxane (8 mL) was stirred at RT for 1 h. (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.500 g, 1.8 mmol) was added and the mixture was heated to reflux for 16 h. The mixture was cooled, concentrated and purified by ISCO (0-40% EtOAc/hexanes) to give the title compound. MS (ESI, positive ion) m/z: 429 (M+1).

reactant | 1-(trifluoromethyl)cyclopropane carboxylic acid | 2.3 mmol, 0.36 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | DIEA | 2.3 mmol, 0.41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 2.3 mmol, 0.51 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 1.8 mmol, 0.500 g | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
solvent | p-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)—N-(1-(Trifluoromethyl)cyclopropyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC(C1(CC1)NC(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C21H18F6N2O
